US04649150
2-Chloro-4-(4-nitro-phenyl)-1H-imidazole
A mixture to 2-hydroxy-4-(4-nitro-phenyl)-1H-imidazole (15 g) and phosphorous oxychloride (750 ml) was refluxed, while stirring, for 24 hours. The solution was then evaporated to dryness, the residue was adjusted to pH 6.5 with a H2PO4- /HPO4-- buffer, and extracted with methylene chloride. After drying, the organic solution was evaporated, and the crude product was chromatographed on silica gel to give 6.7 g of the title compound. M.p. 136°-138° C.

reactant | 2-hydroxy-4-(4-nitro-phenyl)-1H-imidazole | 15 g | OC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O3
reactant | phosphorous oxychloride | 750 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(4-nitro-phenyl)-1H-imidazole | 6.7 g | ClC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H6ClN3O2
